US07081538B1
(5RS)-3-(3-Fluoro-4-(4-(2-hydroxyacetyl)piperazin-1-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole
(5RS)-3-(3-Fluoro-4(4-(2-acetoxyacetyl)piperazin-1-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole (112 mg, 0.25 mM) was suspended in a saturated solution of ammonia in methanol (8 ml), diluted with tetrahydrofuran (5 ml). The mixture was stirred at ambient temperature for 40 hours. The residue after evaporation was chromatographed on a 5 g silica Mega Bond Elut® column, eluting with a gradient from 0–5% methanol in dichloromethane. Relevant fractions were combined to give the desired product (92 mg).

reactant | (5RS)-3-(3-Fluoro-4(4-(2-acetoxyacetyl)piperazin-1-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 0.25 mM, 112 mg | FC=1C=C(C=CC1N1CCN(CC1)C(COC(C)=O)=O)C1=NOC(C1)COC1=NOC=C1 | C21H23FN4O6
reactant | ammonia | N | H3N
solvent | methanol | 8 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (5RS)-3-(3-Fluoro-4-(4-(2-hydroxyacetyl)piperazin-1-yl)phenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 92 mg | FC=1C=C(C=CC1N1CCN(CC1)C(CO)=O)C1=NOC(C1)COC1=NOC=C1 | C19H21FN4O5
